US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (200 mg, 0.371 mmol) and ammonia in MeOH 7M (6 ml, 42.0 mmol) and heating to 80° C. overnight, the title compound was obtained as an off-white solid (158 mg, 78% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.70 (s, 1H), 7.93 (d, J=5.1 Hz, 1H), 7.40-7.56 (m, 3H), 7.35-7.41 (m, 1H), 7.28-7.35 (m, 1H), 7.20-7.28 (m, 1H), 6.71 (s, 2H), 5.79 (d, J=5.1 Hz, 1H), 1.35 (s, 9H). MS (ESI): 520.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.371 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | ammonia | N | H3N
reactant | MeOH | 42.0 mmol, 7M, 6 ml | CO | CH4O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H20F3N5O2S2
